US05739336
A mixture of N-[5-(5-chloropentanoyl)-2,4-dimethoxyphenyl]-4-trifluoromethylbenzenesulfonamide (0.8 g, 1.7 mmol), prepared as in Example 14, 1,3,8-triazaspiro[4.5]decane-2,4-dione hydrochloride (0.55 g, 2.7 mmol), prepared as in Example 16, sodium iodide (0.4 g, 2.7 mmol), triethylamine (0.5 g, 5 mmol) in DMF (approximately 5 mL) was heated 16 hours at 115° C. The mixture was concentrated and the residue was stirred with water and the solids were collected, dried and purified by column chromatography eluting with methylene chloride/methanol+ammonium hydroxide (95:5) to give N-{5-[5-(2,4-dioxo -1,3,8-triazaspiro[4.5]dec-8-yl)pentanoyl]-2,4-dimethoxyphenyl}-4-trifluoromethylbenzenesulfonamide (0.4 g, 0.65 mmol), m.p. 226° C. The free base was recrystallized from a solution of hydrogen chloride in ethanol to give N-{5-[5-(2,4-dioxo-1,3,8-triazaspiro[4.5]dec-8-yl)pentanoyl]-2,4-dimethoxyphenyl}-4-trifluoromethylbenzenesulfonamide hydrochloride (0.37 g, 0.57 mmol), m.p. 277°-278° C. (dec).

reactant | N-[5-(5-chloropentanoyl)-2,4-dimethoxyphenyl]-4-trifluoromethylbenzenesulfonamide | 1.7 mmol, 0.8 g | ClCCCCC(=O)C=1C(=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)OC)OC | C20H21ClF3NO5S
reactant | 1,3,8-triazaspiro[4.5]decane-2,4-dione hydrochloride | 2.7 mmol, 0.55 g | Cl.N1C(NC(C12CCNCC2)=O)=O
reactant | sodium iodide | 2.7 mmol, 0.4 g | [I-].[Na+]
reactant | triethylamine | 5 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
solvent | DMF | approximately 5 mL | CN(C)C=O | C3H7NO
product | N-{5-[5-(2,4-dioxo -1,3,8-triazaspiro[4.5]dec-8-yl)pentanoyl]-2,4-dimethoxyphenyl}-4-trifluoromethylbenzenesulfonamide | 0.65 mmol, 0.4 g | O=C1NC2(C(N1)=O)CCN(CC2)CCCCC(=O)C=2C(=CC(=C(C2)NS(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)OC)OC | C27H31F3N4O7S
